US08686002B2
3-(2,6-Dimethoxybenzyl)-1,7-naphthyridin-2-amine
The title compound was synthesized according to EXAMPLE 11 from 3-amino-4-pyridine carboxaldehyde and 3-(2,6-dimethoxyphenyl)propionitrile

reactant | 3-amino-4-pyridine carboxaldehyde | NC=1C=NC=CC1C=O | C6H6N2O
reactant | 3-(2,6-dimethoxyphenyl)propionitrile | COC1=C(C(=CC=C1)OC)CCC#N | C11H13NO2
product | 3-(2,6-Dimethoxybenzyl)-1,7-naphthyridin-2-amine | COC1=C(CC=2C(=NC3=CN=CC=C3C2)N)C(=CC=C1)OC | C17H17N3O2
